US08703810B2
Step 3: (S)-1-(1-((tert-Butyldimethylsilyl)oxy)propan-2-yl)-4-methyl-1H-imidazole
In a 500-mL round-bottom flask, (S)-2-(4-methyl-1H-imidazol-1-yl)propan-1-ol (12.0 g) and TEA (12 mL) were dissolved in DCM at room temperature. To this solution, TBSCl (21.3 g, 0.141 mol) was added, and the resulting mixture was stirred at room temperature overnight. The mixture was washed with H2O, the organic phase was separated, and the aqueous was extracted with DCM. The combined organic layers were washed with brine (50 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified on a silica gel column eluted with 1/30˜1/9 MeOH/DCM, affording a sample (1.20 g), which was further purified by prep-HPLC, to afford the title compound (0.557 g). 1H NMR (CDCl3): δ 7.41 (d, 1H), 6.67-6.65 (m, 1H), 4.16-4.10 (m, 1H), 3.73-3.62 (m, 2H), 2.20 (d, 3H), 1.44 (d, 3H), 0.86 (s, 9H), −0.04 (s, 6H); LCMS: 255 (M+H)+.

reactant | TBSCl | 0.141 mol, 21.3 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | (S)-2-(4-methyl-1H-imidazol-1-yl)propan-1-ol | 12.0 g | CC=1N=CN(C1)[C@H](CO)C | C7H12N2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-1-(1-((tert-Butyldimethylsilyl)oxy)propan-2-yl)-4-methyl-1H-imidazole | 0.557 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)N1C=NC(=C1)C | C13H26N2OSi
